US08048887B2
(S)-2-(4-Fluorophenyl)-N-methyl-5-(3-(4-phenyl-4,5-dihydrooxazol-2-yl)phenyl)benzofuran-3-carboxamide
Zinc chloride (9 mg, 0.067 mmol) was added to a stirring solution of 5-(3-cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (50 mg, 0.135 mmol) and (S)-2-amino-2-phenylethanol (93 mg, 0.675 mmol) in PhCl (3 mL) rt. It was subjected to two interactions of microwave irradiation at 200° C. for 1 hr. The material was concentrated and purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (16 mg, 23%). 1H NMR (500 MHz, CD3OD) δ ppm 8.33 (1H, s), 7.94-8.00 (4H, m), 7.91 (1H, d, J=7.94 Hz), 7.64-7.73 (2H, m), 7.61 (1H, t, J=7.78 Hz), 7.32-7.42 (6H, m), 7.26 (2H, t, J=8.55 Hz), 5.45 (1H, t, J=9.16 Hz), 4.94 (1H, t, J=9.31 Hz), 4.36 (1H, t, J=8.24 Hz), 2.97 (3H, s). LC-MS retention time 1.76 min; m/z (MH+): 491. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% MeOH/95% H2O/10 mM ammonium bicarbonate, Solvent B=95% MeOH/5% H2O/10 mM ammonium bicarbonate, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: PHENOMENEX® Gemini C-18, 4.6×150 mm, 3 μm, Rt=18.32 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=18.10 min, purity=99%.

reactant | 5-(3-cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.135 mmol, 50 mg | C(#N)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H15FN2O2
reactant | (S)-2-amino-2-phenylethanol | 0.675 mmol, 93 mg | N[C@H](CO)C1=CC=CC=C1 | C8H11NO
solvent | PhCl | 3 mL | C1(=CC=CC=C1)Cl | C6H5Cl
catalyst | Zinc chloride | 0.067 mmol, 9 mg | [Cl-].[Zn+2].[Cl-]
product | (S)-2-(4-Fluorophenyl)-N-methyl-5-(3-(4-phenyl-4,5-dihydrooxazol-2-yl)phenyl)benzofuran-3-carboxamide | 16 mg, 23% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C=2OC[C@@H](N2)C2=CC=CC=C2 | C31H23FN2O3
